US04036974
1-[3'-(n-dodecyloxy)-2'-(n-heptyloxy)propyl]imidazole oxalate (2.3 g.) in 100 ml. of dichloromethane is shaken with excess dilute potassium carbonate solution until the salt is completely dissolved. The organic layer is then separated, washed twice with water, dried over mgnesium sulfate and evaporated to yield 1-[3'-(n-dodecyloxy)-2'-(n-heptyloxy)propyl]imidazole as a gum.

reactant | 1-[3'-(n-dodecyloxy)-2'-(n-heptyloxy)propyl]imidazole oxalate | 2.3 g | C(C(=O)O)(=O)O.C(CCCCCCCCCCC)OCC(CN1C=NC=C1)OCCCCCCC
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[3'-(n-dodecyloxy)-2'-(n-heptyloxy)propyl]imidazole | C(CCCCCCCCCCC)OCC(CN1C=NC=C1)OCCCCCCC | C25H48N2O2
